US07687529B2
1-cyclopropyl-3-[(1S)-3-(methylamino)-1-phenylpropyl]-1,3-dihydro-2H-benzimidazol-2-one
In an analogous manner to Example 14, step 3 1-cyclopropyl-3-[(1S)-3-(methylamino)-1-phenylpropyl]-1,3-dihydro-2H-benzimidazol-2-one HCl salt as a yellow amorphous solid was prepared from 1-cyclopropyl-3-[(1S)-3-(chloro)-1-phenylpropyl]-1,3-dihydro-2H-benzimidazol-2-one and methylamine. MS (ESI) m/z 322. HRMS: calculated for C20H23N3O+H+, 322.19139; found (ESI, [M+H]+), 322.192.

reactant | 1-cyclopropyl-3-[(1S)-3-(methylamino)-1-phenylpropyl]-1,3-dihydro-2H-benzimidazol-2-one HCl salt | Cl.C1(CC1)N1C(N(C2=C1C=CC=C2)[C@@H](CCNC)C2=CC=CC=C2)=O
reactant | 1-cyclopropyl-3-[(1S)-3-(chloro)-1-phenylpropyl]-1,3-dihydro-2H-benzimidazol-2-one | C1(CC1)N1C(N(C2=C1C=CC=C2)[C@@H](CCCl)C2=CC=CC=C2)=O | C19H19ClN2O
reactant | methylamine | CN | CH5N
product | 1-cyclopropyl-3-[(1S)-3-(methylamino)-1-phenylpropyl]-1,3-dihydro-2H-benzimidazol-2-one | C1(CC1)N1C(N(C2=C1C=CC=C2)[C@@H](CCNC)C2=CC=CC=C2)=O | C20H23N3O
